US05559230
A mixture of 5-methylamino-4-hydroxy-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.13 g), ethyl α-bromoacetate (58 mg), diisopropylethylamine (49 mg) and acetonitrile (5 ml) is refluxed for 10 hours. Acetonitrile is distilled off under reduced pressure, and the resulting residue is dissolved in dichloromethane, washed with water, dried over magnesium sulfate, and distilled off under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=50:1), and recrystallized from chloroform/methanol to give 7-[4-(2-chlorobenzoylamino)benzoyl]-1-methyl-1,2,3,4a,5,6,7,11b-octahydro-3-oxo[1]benzazepino[4,5-b][1,4]oxazine (80 mg) as colorless prisms, m.p. 286°-290° C.

reactant | 5-methylamino-4-hydroxy-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.13 g | CNC1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)O | C25H24ClN3O3
reactant | ethyl α-bromoacetate | 58 mg | BrCC(=O)OCC | C4H7BrO2
reactant | diisopropylethylamine | 49 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-[4-(2-chlorobenzoylamino)benzoyl]-1-methyl-1,2,3,4a,5,6,7,11b-octahydro-3-oxo[1]benzazepino[4,5-b][1,4]oxazine | 80 mg | ClC1=C(C(=O)NC2=CC=C(C(=O)N3CCC4OC(CN(C4C4=C3C=CC=C4)C)=O)C=C2)C=CC=C1 | C27H24ClN3O4
